US07442701B2
Description 5: 5,6,7,8-Tetrahydroisoquinolin-5amine
To a solution of 7,8-dihydroisoquinolin-5-(6H)-one oxime [Synth. Commun., 26(12), 2305-2308, (1996)] (1 g, 6.2 mmol) in ethanol (20 ml) and ethyl acetate (1 ml) was added 10% palladium on carbon (250 mg). The resulting slurry was stirred under a hydrogen balloon at room temperature for 20 hours. The catalyst was removed by filtration and the solvent evaporated to give the title compound as a brown oil (953 mg, 100%). m/z (ES+) 149 (M+H+).

reactant | 7,8-dihydroisoquinolin-5-(6H)-one oxime | 6.2 mmol, 1 g | C1=NC=CC=2C(CCCC12)=NO | C9H10N2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 5,6,7,8-Tetrahydroisoquinolin-5amine | 953 mg, 100% | C1=NC=CC=2C(CCCC12)N | C9H12N2
